US07291635B2
The title B compound, 2-(4-methoxybenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (128 mg, 0.5 mmol), 4-hydroxypyridine (109 mg, 1 mmol) and triphenylphosphine (262 mg, 1 mmol) are put into a small reaction vessel under argon and dissolved in 10 mL of THF. This solution is stirred in an ice/water bath and diethyl azodicarboxylate (174 mg, 1 mmol) diluted with an equal volume of THF is added dropwise to the stirred cold solution. The reaction is allowed to stir 16 h while the ice bath slowly warms to RT. The solvent is evaporated on the rotary evaporator, then the residue is taken up in a minimal amount of CH2Cl2 and chromatographed on a 10 g RediSep silica gel column, using a gradient from 1 to 5% EtOAc in CH2Cl2 over 15 to 20 min to afford 2-(4-methoxybenzyl)-1,1-dioxo-5-pyridin-4-ylmethyl-1,2,5-thiadiazolidin-3-one: [M+1]+=348.

reactant | 2-(4-methoxybenzyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.5 mmol, 128 mg | COC1=CC=C(CN2S(NCC2=O)(=O)=O)C=C1 | C10H12N2O4S
reactant | 4-hydroxypyridine | 1 mmol, 109 mg | OC1=CC=NC=C1 | C5H5NO
reactant | triphenylphosphine | 1 mmol, 262 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1 mmol, 174 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(4-methoxybenzyl)-1,1-dioxo-5-pyridin-4-ylmethyl-1,2,5-thiadiazolidin-3-one | COC1=CC=C(CN2S(N(CC2=O)CC2=CC=NC=C2)(=O)=O)C=C1 | C16H17N3O4S
